** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/testbench/tb_cdac_8bit.sch
**.subckt tb_cdac_8bit
V1 vref 0 3.3
V2 vdd 0 3.3
R1 vdac 0 1G
V3 dac_in[7] 0 PULSE(0 3.3 0 1n 1n 2u 4u)
V4 dac_in[6] 0 0
V5 dac_in[5] 0 0
V6 dac_in[4] 0 0
V7 dac_in[3] 0 0
V8 dac_in[2] 0 0
V9 dac_in[1] 0 0
V10 dac_in[0] 0 0
x1 vref vdd 0 dac_in[7] dac_in[6] dac_in[5] dac_in[4] dac_in[3] dac_in[2] dac_in[1] dac_in[0] vdac cdac_8bit
**** begin user architecture code


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical




.control
  tran 10n 10u
  wrdata cdac_out.txt vdac x1.bot7 x1.bot6
  plot x1.bot7 x1.bot6
.endc


**** end user architecture code
**.ends

* expanding   symbol:  sar_adc/blocks/cdac/cdac_8bit.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_8bit.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_8bit.sch
.subckt cdac_8bit vref vdd vss dac_in[7] dac_in[6] dac_in[5] dac_in[4] dac_in[3] dac_in[2] dac_in[1] dac_in[0] vdac
*.ipin vref
*.iopin vdd
*.iopin vss
*.ipin dac_in[7],dac_in[6],dac_in[5],dac_in[4],dac_in[3],dac_in[2],dac_in[1],dac_in[0]
*.opin vdac
XSW0 vref vdd vss bot0 dac_in[0] cdac_switch_1b
C0 vdac bot0 0.0005p
XSW1 vref vdd vss bot1 dac_in[1] cdac_switch_1b
C1 vdac bot1 0.001p
XSW2 vref vdd vss bot2 dac_in[2] cdac_switch_1b
C2 vdac bot2 0.002p
XSW3 vref vdd vss bot3 dac_in[3] cdac_switch_1b
C3 vdac bot3 0.004p
XSW4 vref vdd vss bot4 dac_in[4] cdac_switch_1b
C4 vdac bot4 0.008p
XSW5 vref vdd vss bot5 dac_in[5] cdac_switch_1b
C5 vdac bot5 0.016p
XSW6 vref vdd vss bot6 dac_in[6] cdac_switch_1b
C6 vdac bot6 0.032p
XSW7 vref vdd vss bot7 dac_in[7] cdac_switch_1b
C7 vdac bot7 0.064p
CDummy vdac vss 0.0005p
Rdc vdac vss 100MEG
.ends


* expanding   symbol:  sar_adc/blocks/cdac/cdac_switch_1b.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_switch_1b.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_switch_1b.sch
.subckt cdac_switch_1b vref vdd vss bot bit
*.ipin bit
*.iopin vref
*.iopin vdd
*.iopin vss
*.iopin bot
XM1 bit_b bit vdd vdd pfet_03v3 L=0.28u W=0.8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 bit_b bit vss vss nfet_03v3 L=0.28u W=0.4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 bot bit_b vref vdd pfet_03v3 L=0.28u W=2.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 vref bit bot vss nfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 bot bit vss vdd pfet_03v3 L=0.28u W=2.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 vss bit_b bot vss nfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
