** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/testbench/tb_cdac_8bit.sch
**.subckt tb_cdac_8bit
V_VDD net1 net2 3.3
V_VREF net3 net4 3.3
V_VSS net5 net6 0
V_D7 net7 net8 PULSE(0 3.3 0 1n 1n 2u 4u)
V_D6 net9 net10 0
V_D5 net11 net12 0
V_D4 net13 net14 0
V_D3 net15 net16 0
V_D2 net17 net18 0
V_D1 net19 net20 0
V_D0 net21 net22 0
x1 vref dac_in[7] dac_in[6] dac_in[5] dac_in[4] dac_in[3] dac_in[2] dac_in[1] dac_in[0] vdac vdd vss cdac_8bit
R_load net23 net24 1G
**** begin user architecture code


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.control
tran 10n 10u
set filetype=ascii
write tb_cdac_8bit.raw
quit
.endc

**** end user architecture code
**.ends

* expanding   symbol:  sar_adc/blocks/cdac/cdac_8bit.sym # of pins=12
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_8bit.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_8bit.sch
.subckt cdac_8bit vref dac_in[7] dac_in[6] dac_in[5] dac_in[4] dac_in[3] dac_in[2] dac_in[1] dac_in[0] vdac vdd vss
*.ipin vref
*.ipin dac_in[7]
*.ipin dac_in[6]
*.ipin dac_in[5]
*.ipin dac_in[4]
*.ipin dac_in[3]
*.ipin dac_in[2]
*.ipin dac_in[1]
*.ipin dac_in[0]
*.opin vdac
*.iopin vdd
*.iopin vss
XSW0 dac_in[0] vref vdd vss bot0 cdac_switch_1b
XC0 vdac bot0 cap_mim_2f0fF c_width=5e-6 c_length=5e-6
XSW1 dac_in[1] vref vdd vss bot1 cdac_switch_1b
XC1 vdac bot1 cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=2
XSW2 dac_in[2] vref vdd vss bot2 cdac_switch_1b
XC2 vdac bot2 cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=4
XSW3 dac_in[3] vref vdd vss bot3 cdac_switch_1b
XC3 vdac bot3 cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=8
XSW4 dac_in[4] vref vdd vss bot4 cdac_switch_1b
XC4 vdac bot4 cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=16
XSW5 dac_in[5] vref vdd vss bot5 cdac_switch_1b
XC5 vdac bot5 cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=32
XSW6 dac_in[6] vref vdd vss bot6 cdac_switch_1b
XC6 vdac bot6 cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=64
XSW7 dac_in[7] vref vdd vss bot7 cdac_switch_1b
XC7 vdac bot7 cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=128
XC8 vdac vss cap_mim_2f0fF c_width=5e-6 c_length=5e-6
.ends


* expanding   symbol:  sar_adc/blocks/cdac/cdac_switch_1b.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_switch_1b.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_switch_1b.sch
.subckt cdac_switch_1b bit vref vdd vss bot
*.ipin bit
*.iopin vref
*.iopin vdd
*.iopin vss
*.iopin bot
XM1 bit_b bit vdd vdd pfet_03v3 L=0.28u W=4.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 bit_b bit vss vss nfet_03v3 L=0.28u W=2.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 bot bit_b vref vdd pfet_03v3 L=0.28u W=4.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 bot bit vref vss nfet_03v3 L=0.28u W=2.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 bot bit vss vdd pfet_03v3 L=0.28u W=4.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 bot bit_b vss vss nfet_03v3 L=0.28u W=2.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
